US07985762B2
Step 1: Allyl 1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamate (M1A)
To a solution of (3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide (10 g, 53.7 mmol), DIEA (28 mL, 161 mmol, 3 eq.) in methylene chloride (250 mL) was added dropwise at 0° C. to a solution of allylchloroformate (6.8 mL, 64.4 mmol, 1.2 eq.) in DCM (50 mL). The reaction solution was warmed to room temperature and stirred for 4 hours. Water (300 mL) was then slowly added followed by aqueous HCl (1.0 N, 300 mL). The phases were separated and the organics washed with saturated aqueous NaHCO3 (300 mL), brine (300 mL), dried with MgSO4, filtered, and concentrated in vacuo. The resulting off-white solid was recrystallized from 30% hexanes in EtOAc (120 mL) to yield the title compound M1A as a white solid. The mother liquor was concentrated, in vacuo, and recrystallized from 50% hexanes in EtOAc to yield another 4.04 g of MIA. The mother liquor from the second recrystallization was concentrated in vacuo on Celite®, and the resulting Celite® plug was purified by flash chromatography (Isco Companion®, SiO2, DCM to 70% EtOAc in DCM) to give 1.46 g of MIA. The total amount of compound MIA was 13.4 g (yield 93%). (Rf˜0.40 in 1:1 DCM:EtOAc, CAM detection).

reactant | (3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide | 53.7 mmol, 10 g | N[C@H](C(C(=O)NC1CC1)O)CCC | C9H18N2O2
reactant | DIEA | 161 mmol, 28 mL, 3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | allylchloroformate | 64.4 mmol, 6.8 mL, 1.2 eq. | C(C=C)OC(=O)Cl | C4H5ClO2
reactant | HCl | 1.0 N, 300 mL | Cl | ClH
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 300 mL | O | H2O
product | Allyl 1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamate | yield 93% | C1(CC1)NC(C(C(CCC)NC(OCC=C)=O)O)=O | C13H22N2O4
